** Name: SymmetricalOpAmp66

.MACRO SymmetricalOpAmp66 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=7e-6
mDiodeTransistorNmos2 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=111e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=3e-6 W=46e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorPmos5 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=22e-6
mDiodeTransistorPmos6 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=72e-6
mDiodeTransistorPmos7 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=72e-6
mNormalTransistorNmos8 inOutputTransconductanceComplementarySecondStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=341e-6
mNormalTransistorNmos9 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=396e-6
mNormalTransistorNmos10 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=3e-6 W=200e-6
mNormalTransistorNmos11 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=396e-6
mNormalTransistorNmos12 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=378e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=89e-6
mNormalTransistorNmos14 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=111e-6
mNormalTransistorPmos15 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=94e-6
mNormalTransistorPmos16 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=94e-6
mNormalTransistorPmos17 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=90e-6
mNormalTransistorPmos18 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=90e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp66

** Expected Performance Values: 
** Gain: 97 dB
** Power consumption: 4.01301 mW
** Area: 9504 (mu_m)^2
** Transit frequency: 33.1111 MHz
** Transit frequency with error factor: 33.111 MHz
** Slew rate: 31.5525 V/mu_s
** Phase margin: 55.004°
** CMRR: 143 dB
** negPSRR: 65 dB
** posPSRR: 56 dB
** VoutMax: 4.25 V
** VoutMin: 0.800001 V
** VcmMax: 4.40001 V
** VcmMin: 1.43001 V


** Expected Currents: 
** NormalTransistorNmos: 223.374 muA
** DiodeTransistorPmos: -125.706 muA
** DiodeTransistorPmos: -125.706 muA
** NormalTransistorNmos: 251.412 muA
** NormalTransistorNmos: 251.411 muA
** NormalTransistorNmos: 125.707 muA
** NormalTransistorNmos: 125.707 muA
** NormalTransistorNmos: 158.876 muA
** NormalTransistorNmos: 158.875 muA
** NormalTransistorPmos: -158.875 muA
** NormalTransistorPmos: -158.876 muA
** DiodeTransistorNmos: 158.876 muA
** DiodeTransistorNmos: 158.875 muA
** NormalTransistorPmos: -158.875 muA
** NormalTransistorPmos: -158.876 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -223.373 muA


** Expected Voltages: 
** ibias: 1.18701  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceStageBiasComplementarySecondStage: 0.630001  V
** inSourceTransconductanceComplementarySecondStage: 3.99201  V
** innerComplementarySecondStage: 1.38401  V
** out: 2.5  V
** outFirstStage: 3.99201  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.465001  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.811001  V
** innerTransconductance: 4.55601  V
** inner: 4.55601  V


.END