** Name: SymmetricalOpAmp67

.MACRO SymmetricalOpAmp67 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=8e-6 W=29e-6
mDiodeTransistorNmos2 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=4e-6
mDiodeTransistorPmos3 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=24e-6
mDiodeTransistorPmos4 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=84e-6
mDiodeTransistorPmos5 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=84e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=10e-6
mNormalTransistorNmos7 inOutputTransconductanceComplementarySecondStage ibias sourceNmos sourceNmos nmos4 L=8e-6 W=356e-6
mNormalTransistorNmos8 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=114e-6
mNormalTransistorNmos9 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=3e-6 W=224e-6
mNormalTransistorNmos10 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=3e-6 W=223e-6
mNormalTransistorNmos11 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=114e-6
mNormalTransistorNmos12 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=8e-6 W=26e-6
mNormalTransistorNmos13 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=8e-6 W=600e-6
mNormalTransistorNmos14 FirstStageYsourceTransconductance inOutputStageBiasComplementarySecondStage FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=207e-6
mNormalTransistorNmos15 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=216e-6
mNormalTransistorNmos16 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=216e-6
mNormalTransistorPmos17 inOutputStageBiasComplementarySecondStage outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=17e-6
mNormalTransistorPmos18 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=2e-6 W=106e-6
mNormalTransistorPmos19 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=2e-6 W=106e-6
mNormalTransistorPmos20 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=169e-6
mNormalTransistorPmos21 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=169e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp67

** Expected Performance Values: 
** Gain: 93 dB
** Power consumption: 3.94401 mW
** Area: 13290 (mu_m)^2
** Transit frequency: 36.7581 MHz
** Transit frequency with error factor: 36.7578 MHz
** Slew rate: 42.2198 V/mu_s
** Phase margin: 55.577°
** CMRR: 143 dB
** negPSRR: 55 dB
** posPSRR: 47 dB
** VoutMax: 4.26001 V
** VoutMin: 0.370001 V
** VcmMax: 4.58001 V
** VcmMin: 1.36001 V


** Expected Currents: 
** NormalTransistorNmos: 8.82601 muA
** NormalTransistorNmos: 121.84 muA
** NormalTransistorPmos: -15.2349 muA
** DiodeTransistorPmos: -103.889 muA
** DiodeTransistorPmos: -103.889 muA
** NormalTransistorNmos: 207.778 muA
** NormalTransistorNmos: 207.777 muA
** NormalTransistorNmos: 103.89 muA
** NormalTransistorNmos: 103.89 muA
** NormalTransistorNmos: 212.611 muA
** NormalTransistorNmos: 212.61 muA
** NormalTransistorPmos: -212.61 muA
** NormalTransistorPmos: -212.609 muA
** NormalTransistorNmos: 212.611 muA
** NormalTransistorNmos: 212.61 muA
** NormalTransistorPmos: -212.61 muA
** NormalTransistorPmos: -212.609 muA
** DiodeTransistorNmos: 15.2341 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -8.82499 muA
** DiodeTransistorPmos: -121.839 muA


** Expected Voltages: 
** ibias: 0.585001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 0.774001  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceTransconductanceComplementarySecondStage: 4.17201  V
** innerComplementarySecondStage: 0.591001  V
** out: 2.5  V
** outFirstStage: 4.17201  V
** outVoltageBiasXXpXX0: 3.73001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.180001  V
** sourceTransconductance: 1.91501  V
** innerStageBias: 0.186001  V
** innerTransconductance: 4.72201  V
** inner: 0.186001  V
** inner: 4.72201  V


.END