** Name: SymmetricalOpAmp7

.MACRO SymmetricalOpAmp7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=79e-6
mDiodeTransistorNmos2 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=18e-6
mDiodeTransistorNmos3 inputVoltageBiasXXnXX0 inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos4 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=79e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=40e-6
mDiodeTransistorPmos6 innerComplementarySecondStage innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=197e-6
mDiodeTransistorPmos7 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
mNormalTransistorNmos8 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=1e-6 W=100e-6
mNormalTransistorNmos9 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=100e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX1 inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=93e-6
mNormalTransistorNmos11 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=220e-6
mNormalTransistorNmos12 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=220e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=117e-6
mNormalTransistorPmos14 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=4e-6 W=569e-6
mNormalTransistorPmos15 inputVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=33e-6
mNormalTransistorPmos16 out outVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=521e-6
mNormalTransistorPmos17 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=117e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=600e-6
mNormalTransistorPmos19 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=197e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp7

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 4.48101 mW
** Area: 8530 (mu_m)^2
** Transit frequency: 34.8811 MHz
** Transit frequency with error factor: 34.881 MHz
** Slew rate: 41.4904 V/mu_s
** Phase margin: 57.2958°
** CMRR: 153 dB
** negPSRR: 52 dB
** posPSRR: 78 dB
** VoutMax: 4.43001 V
** VoutMin: 0.310001 V
** VcmMax: 4.01001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorNmos: 152.301 muA
** NormalTransistorPmos: -8.29599 muA
** NormalTransistorPmos: -143.114 muA
** DiodeTransistorNmos: 76.0401 muA
** DiodeTransistorNmos: 76.0401 muA
** NormalTransistorPmos: -152.08 muA
** NormalTransistorPmos: -76.0409 muA
** NormalTransistorPmos: -76.0409 muA
** NormalTransistorNmos: 210.21 muA
** NormalTransistorNmos: 210.211 muA
** NormalTransistorPmos: -210.209 muA
** NormalTransistorPmos: -210.21 muA
** DiodeTransistorPmos: -210.209 muA
** NormalTransistorNmos: 210.21 muA
** NormalTransistorNmos: 210.211 muA
** DiodeTransistorNmos: 8.29501 muA
** DiodeTransistorNmos: 143.115 muA
** DiodeTransistorPmos: -152.3 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.19901  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 0.713001  V
** inSourceTransconductanceComplementarySecondStage: 0.556001  V
** innerComplementarySecondStage: 4.01101  V
** inputVoltageBiasXXnXX0: 0.602001  V
** out: 2.5  V
** outFirstStage: 0.556001  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.25401  V
** innerStageBias: 4.40001  V
** innerTransconductance: 0.151001  V
** inner: 0.151001  V


.END