** Name: SymmetricalOpAmp74

.MACRO SymmetricalOpAmp74 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=6e-6 W=19e-6
mDiodeTransistorNmos2 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=7e-6 W=7e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=331e-6
mDiodeTransistorPmos4 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=71e-6
mDiodeTransistorPmos5 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=71e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=35e-6
mNormalTransistorNmos7 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=299e-6
mNormalTransistorNmos8 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=7e-6 W=104e-6
mNormalTransistorNmos9 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=7e-6 W=104e-6
mNormalTransistorNmos10 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=299e-6
mNormalTransistorNmos11 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=60e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=6e-6 W=331e-6
mNormalTransistorNmos13 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=7e-6 W=239e-6
mNormalTransistorNmos14 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=7e-6 W=239e-6
mNormalTransistorNmos15 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=19e-6
mNormalTransistorPmos16 innerComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=145e-6
mNormalTransistorPmos17 inOutputStageBiasComplementarySecondStage outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=36e-6
mNormalTransistorPmos18 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=145e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp74

** Expected Performance Values: 
** Gain: 52 dB
** Power consumption: 3.01401 mW
** Area: 14982 (mu_m)^2
** Transit frequency: 33.7561 MHz
** Transit frequency with error factor: 33.7564 MHz
** Slew rate: 35.4752 V/mu_s
** Phase margin: 55.577°
** CMRR: 102 dB
** negPSRR: 97 dB
** posPSRR: 52 dB
** VoutMax: 4.74001 V
** VoutMin: 0.620001 V
** VcmMax: 4.58001 V
** VcmMin: 1.36001 V


** Expected Currents: 
** NormalTransistorNmos: 31.2201 muA
** NormalTransistorPmos: -32.7509 muA
** DiodeTransistorPmos: -86.1129 muA
** DiodeTransistorPmos: -86.1129 muA
** NormalTransistorNmos: 172.226 muA
** DiodeTransistorNmos: 172.227 muA
** NormalTransistorNmos: 86.1121 muA
** NormalTransistorNmos: 86.1121 muA
** NormalTransistorNmos: 178.294 muA
** NormalTransistorNmos: 178.293 muA
** NormalTransistorPmos: -178.293 muA
** NormalTransistorNmos: 178.294 muA
** NormalTransistorNmos: 178.293 muA
** NormalTransistorPmos: -178.293 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorNmos: 32.7501 muA
** DiodeTransistorPmos: -31.2209 muA


** Expected Voltages: 
** ibias: 1.19501  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 1.02801  V
** inTransconductanceComplementarySecondStage: 4.17501  V
** innerComplementarySecondStage: 0.653001  V
** out: 2.5  V
** outFirstStage: 4.17501  V
** outSourceVoltageBiasXXnXX1: 0.598001  V
** outVoltageBiasXXpXX0: 3.93401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.93001  V
** innerStageBias: 0.248001  V
** inner: 0.248001  V
** inner: 0.596001  V


.END