** Name: SymmetricalOpAmp9

.MACRO SymmetricalOpAmp9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=5e-6 W=35e-6
mDiodeTransistorNmos2 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=33e-6
mDiodeTransistorNmos3 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=33e-6
mDiodeTransistorNmos4 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=6e-6 W=27e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=35e-6
mDiodeTransistorPmos6 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos7 inOutputStageBiasComplementarySecondStage outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=6e-6 W=92e-6
mNormalTransistorNmos8 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=5e-6 W=106e-6
mNormalTransistorNmos9 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=5e-6 W=106e-6
mNormalTransistorNmos10 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=91e-6
mNormalTransistorNmos11 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=91e-6
mNormalTransistorPmos12 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=4e-6 W=434e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=4e-6 W=516e-6
mNormalTransistorPmos14 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=1e-6 W=75e-6
mNormalTransistorPmos15 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=205e-6
mNormalTransistorPmos16 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=4e-6 W=516e-6
mNormalTransistorPmos17 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=48e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=433e-6
mNormalTransistorPmos19 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=422e-6
mNormalTransistorPmos20 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=422e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp9

** Expected Performance Values: 
** Gain: 97 dB
** Power consumption: 3.38901 mW
** Area: 11259 (mu_m)^2
** Transit frequency: 33.2421 MHz
** Transit frequency with error factor: 33.2425 MHz
** Slew rate: 34.4404 V/mu_s
** Phase margin: 56.7229°
** CMRR: 150 dB
** negPSRR: 48 dB
** posPSRR: 52 dB
** VoutMax: 4.63001 V
** VoutMin: 0.460001 V
** VcmMax: 4.02001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorNmos: 46.4071 muA
** NormalTransistorPmos: -13.7669 muA
** NormalTransistorPmos: -124.143 muA
** DiodeTransistorNmos: 63.0301 muA
** DiodeTransistorNmos: 63.0301 muA
** NormalTransistorPmos: -126.061 muA
** NormalTransistorPmos: -63.0309 muA
** NormalTransistorPmos: -63.0309 muA
** NormalTransistorNmos: 173.323 muA
** NormalTransistorNmos: 173.322 muA
** NormalTransistorPmos: -173.322 muA
** NormalTransistorPmos: -173.323 muA
** NormalTransistorPmos: -174.194 muA
** NormalTransistorPmos: -174.195 muA
** NormalTransistorNmos: 174.195 muA
** NormalTransistorNmos: 174.194 muA
** DiodeTransistorNmos: 13.7661 muA
** DiodeTransistorNmos: 124.144 muA
** DiodeTransistorPmos: -46.4079 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.18201  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 3.92401  V
** inOutputTransconductanceComplementarySecondStage: 0.865001  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 4.28401  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXnXX0: 0.595001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.22901  V
** innerStageBias: 4.70501  V
** innerTransconductance: 0.150001  V
** inner: 4.84701  V
** inner: 0.150001  V


.END